US07514567B2
(R)-3′-[5-(Thiazol-5-yl)thiophen-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Example 5 from (R)-3′-(5-bromothiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 5-(tri-n-butylstannyl)thiazole. The title compound (31 mg) was obtained as a pale solid, m/z 348 (MH+).

reactant | (R)-3′-(5-bromothiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | BrC1=CC=C(S1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C13H15BrN2O2S
reactant | 5-(tri-n-butylstannyl)thiazole | C(CCC)[Sn](C1=CN=CS1)(CCCC)CCCC
product | (R)-3′-[5-(Thiazol-5-yl)thiophen-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 31 mg | S1C=NC=C1C1=CC=C(S1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C16H17N3O2S2
